US05143920
Ethyl 2-butyryl-3-(4-hydroxy-2-methoxyphenylamino)acrylate (34.5 g) and pyridine (100 ml) were stirred in dichloromethane (500 ml) at 0°-5°. Benzoyl chloride (20 ml) in dichloromethane (100 ml) was added dropwise (below 10°) and the mixture was stirred overnight at room temperature. The reaction mixture was washed successively with water, 2M HCl (×2) and sodium hydrogen carbonate solution (×2). The organic layer was dried, filtered and evaporated to an oil which crystallized on standing to give ethyl 2-butyryl-3-(4-benzoyloxy-2-methoxyphenyl-amino)acrylate (24 g, 52%) m.p. 85°-87°.

reactant | Ethyl 2-butyryl-3-(4-hydroxy-2-methoxyphenylamino)acrylate | 34.5 g | C(CCC)(=O)C(C(=O)OCC)=CNC1=C(C=C(C=C1)O)OC | C16H21NO5
reactant | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
reactant | Benzoyl chloride | 20 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | ethyl 2-butyryl-3-(4-benzoyloxy-2-methoxyphenyl-amino)acrylate | 24 g, 52% | C(CCC)(=O)C(C(=O)OCC)=CNC1=C(C=C(C=C1)OC(C1=CC=CC=C1)=O)OC | C23H25NO6
